US05780465
36. Preparation of 5-(2,2-Dimethyl-7-fluoroindan-1-yl)-4-methylthiopyrimidine (Cpd. 203)
A solution of 500 mg of 5-(2,2-dimethyl-7-fluoroindan-3-on-1-yl)-4-methylthiopyrimidine, 5.0 g of triethylsilane and 3.0 g of boron trifluoride etherate in 20 mL of 1,2-dichloroethane was heated to reflux with stirring for 16 hr. The resulting solution was cooled and then poured into an aqueous solution of sodium carbonate. The mixture obtained was extracted with ether and the ethereal extract was dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography on silica gel to obtain a colorless oil. A portion of this oil was crystallized from hexane to obtain 150 mg of the title compound as a white solid melting at 81°-82° C.

reactant | 5-(2,2-dimethyl-7-fluoroindan-3-on-1-yl)-4-methylthiopyrimidine | 500 mg | CC1(C(C2=C(C=CC=C2C1=O)F)C=1C(=NC=NC1)SC)C | C16H15FN2OS
reactant | triethylsilane | 5.0 g | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 3.0 g | B(F)(F)F.CCOCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 5-(2,2-Dimethyl-7-fluoroindan-1-yl)-4-methylthiopyrimidine | 150 mg | CC1(C(C2=C(C=CC=C2C1)F)C=1C(=NC=NC1)SC)C | C16H17FN2S
